US06251903B1
6,7-Dimethoxy-1,4-dihydroquinoxaline-2,3-dione was prepared from 1,2-dimethoxybenzene. Nitration of 1,2-dimethoxybenzene gave 1,2-dimethoxy-4,5-dinitrobenzene, which was reduced to 1,2-diamino-4,5-dimethoxybenzene. Condensation of the diamine with oxalic acid gave 6,7-dimethoxy-1,4-dihydroquinoxaline-2,3-dione.

reactant | 1,2-diamino-4,5-dimethoxybenzene | NC1=C(C=C(C(=C1)OC)OC)N | C8H12N2O2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
product | 6,7-dimethoxy-1,4-dihydroquinoxaline-2,3-dione | COC=1C=C2NC(C(NC2=CC1OC)=O)=O | C10H10N2O4
